*  Spice_Switch_TFN_AproxBehavior
*****************************************************************************
* (C) Thierry FLAVEN FESYS.FR
*****************************************************************************
** This model is designed as a substitute with simple behavioral the switch
** For simulation of other IC and the result from this one shouldn't be considered
*****************
*****************************************************************************
*
*.SUBCKT Spice_Switch_1x2  In Selec OutD OutN  (OutD is default switch)
.SUBCKT  Spice_Switch_1x2  1 2 3 4
***
S1 1 3 2 0 Sw1 On
.model Sw1 sw (vt=1.5 vh=0.8 ron=0.1 roff=10T)
R1 3 0 1G

S2 1 4 2 0 Sw2 on
.model Sw2 (sw vt=1.5 vh=0.8 ron=10T roff=0.1)
R2 4 0 1G

*Vt = trigger V level, Vh is histeresis of trigger, Ron and Toff in Ohm => model voltage controlled switch S1
.ENDS Spice_Switch_1x2
